US05051422
4-[(Methylsulfonyl)amino]-N-[(4-phenylpiperazin-2-yl)methyl]benzamide hydrochloride
To methanol (400 mL) add 4-[(methylsulfonyl)amino]-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide hydrochloride (40 g, 77 mmol) and Pd(OH)2 (2.0 g). When the addition is complete, place the reaction mixture on a Parr hydrogenator at 50 p.s.i. of H2 and shake. Monitor the progress of the reaction by thin-layer chromatography. Upon completion of the reaction, remove the catalyst by suction filtration through celite. Wash the pad with methanol. Remove the solvent in vacuo to obtain a residue. Recrystallize from methanol to provide the title compound.

reactant | 4-[(methylsulfonyl)amino]-N-[[4-phenyl-1-(phenylmethyl)piperazin-2-yl]methyl]benzamide hydrochloride | 77 mmol, 40 g | Cl.CS(=O)(=O)NC1=CC=C(C(=O)NCC2N(CCN(C2)C2=CC=CC=C2)CC2=CC=CC=C2)C=C1
catalyst | Pd(OH)2 | 2.0 g | [OH-].[OH-].[Pd+2]
solvent | methanol | 400 mL | CO | CH4O
product | 4-[(Methylsulfonyl)amino]-N-[(4-phenylpiperazin-2-yl)methyl]benzamide hydrochloride | Cl.CS(=O)(=O)NC1=CC=C(C(=O)NCC2NCCN(C2)C2=CC=CC=C2)C=C1 | InChI=1S/C19H24N4O3S.ClH/c1-27(25,26)22-16-9-7-15(8-10-16)19(24)21-13-17-14-23(12-11-20-17)18-5-3-2-4-6-18;/h2-10,17,20,22H,11-14H2,1H3,(H,21,24);1H
